US08207167B2
2′,4′-Dichloro-N-(3-(1-hydroxycyclopropyl)phenyl)biphenyl-4-sulfonamide (ABD709)
A solution of methyl 3-(2′,4′-dichlorobiphenyl-4-ylsulfonamido)benzoate (500 mg, 1.03 mmol) and titanium isopropoxide (61 μL, 0.206 mmol) in anhydrous THF (10 mL) was cooled under nitrogen to −10° C. A solution of 3 Methylmagnesium iodide in THF (2.4 mL, 7.2 mmol) was added by syringe and the solution was stirred at 0° C. for 1 hour, then at room temperature overnight. The mixture was diluted with water (5 mL) and ethyl acetate (20 mL) and filtered through Celite. The layers were separated. The organic phase was washed with water (10 mL) and brine (10 mL) and dried over MgSO4. Evaporation of the solvents gave an orange gum which was purified by column chromatography on silica, eluting with acetone/hexane (1:4) and the title compound obtained as a light yellow foam (100 mg). 1H NMR (300 MHz, CDCl3): δ 0.95-1.05 (2H, m), 1.20-1.24 (2H, m), 6.90-7.10 (3H, m), 7.20-7.46 (3H, m), 7.47-7.48 (3H, m) and 7.83 (2H, d). MS, m/z: Calcd, 433.031. Found, 433.22 (M).

reactant | methyl 3-(2′,4′-dichlorobiphenyl-4-ylsulfonamido)benzoate | 1.03 mmol, 500 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)OC)C=CC1 | C20H15Cl2NO4S
reactant | Methylmagnesium iodide | C[Mg]I
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 7.2 mmol, 2.4 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | titanium isopropoxide | 0.206 mmol, 61 μL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 2′,4′-Dichloro-N-(3-(1-hydroxycyclopropyl)phenyl)biphenyl-4-sulfonamide | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1(CC1)O | C21H17Cl2NO3S
